US09210927B2
Step 1. (E)-tert-Butyl 2-(2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzamido)ethylcarbamate
PyBOP (420 mg, 0.82 mmol) and DIPEA (0.410 mL, 2.46 mmol) were added to a stirred solution of (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzoic acid (400 mg, 0.82 mmol) and tert-butyl 2-aminoethylcarbamate (130 mg, 0.82 mmol) in CH2Cl2 (10 mL) and the reaction mixture was stirred at ambient temperature for 18 h. Water was added to the reaction mixture which was then extracted with CH2Cl2 (25 mL). The organic layer was washed with 2N HCl followed by a saturated aqueous NaHCO3 solution and brine. The organic layer was dried (Na2SO4), filtered, concentrated and the residue was purified by column chromatography on silica (100-200 mesh) eluting with 40% EtOAc in petroleum ether to afford the title compound as a brown solid (200 mg, 39%): 1H NMR (400 MHz, DMSO-d6) δ 8.38 (t, J=5.2 Hz, 1H), 7.91-7.89 (m, 3H), 7.58 (d, J=6.8 Hz, 1H), 7.41 (d, J=7.6 Hz, 1H), 6.99 (dd, J=15.6, 9.2 Hz, 1H), 6.84 (t, J=6.0 Hz, 1H), 6.76 (t, J=15.6 Hz, 1H), 4.84-4.80 (m, 1H), 3.24-3.20 (m, 2H), 3.11-3.08 (m, 2H), 1.30 (s, 9H); ESIMS m/z 628.80 ([M+H]+); IR (thin film) 3365, 1701, 1167, 699, 555 cm−1.

reactant | PyBOP | 0.82 mmol, 420 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.46 mmol, 0.410 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzoic acid | 0.82 mmol, 400 mg | BrC1=C(C(=O)O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C17H9BrCl3F3O2
reactant | tert-butyl 2-aminoethylcarbamate | 0.82 mmol, 130 mg | NCCNC(OC(C)(C)C)=O | C7H16N2O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | (E)-tert-Butyl 2-(2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzamido)ethylcarbamate | 200 mg, 39% | BrC1=C(C(=O)NCCNC(OC(C)(C)C)=O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C24H23BrCl3F3N2O3
